US07432279B2
4-[(3-bromo-4-methylphenyl)amino]-6-[(2-morpholin-4-ylethyl)amino]-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 1, 4-[(3-bromo-4-methylphenyl)amino]-6-fluoro-[1,7]naphthyridine-3-carbonitrile (300 mg, 1.1 mmol, 1 eq) was reacted with 2-morpholin-4-yl-1-ethylamine (3 mL, 20 eq). The crude product was purified via preparative HPLC to obtain 67 mg product (18% yield):

reactant | 4-[(3-bromo-4-methylphenyl)amino]-6-fluoro-[1,7]naphthyridine-3-carbonitrile | 1.1 mmol, 300 mg, 1 eq | BrC=1C=C(C=CC1C)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C16H10BrFN4
reactant | 2-morpholin-4-yl-1-ethylamine | 3 mL, 20 eq | N1(CCOCC1)CCN | C6H14N2O
product | 4-[(3-bromo-4-methylphenyl)amino]-6-[(2-morpholin-4-ylethyl)amino]-1,7-naphthyridine-3-carbonitrile | 67 mg, 18% yield | BrC=1C=C(C=CC1C)NC1=C(C=NC2=CN=C(C=C12)NCCN1CCOCC1)C#N | C22H23BrN6O
